US08865725B2
Benzoyl peroxide (7.2 mg, 0.03 mmol) was added to a stirred solution of N-bromosuccinimide (30.58 mg, 0.33 mmol) and 6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (0.1 g, 0.3 mmol) in DCE (5 mL). The mixture was stirred at RT for 16 hours. The solvent was evaporated in vacuo and the crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 0/100 to 10/90). The desired fractions were collected and the solvents evaporated in vacuo to yield 3-bromo-6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (57 mg, 35% yield) as a white solid.

reactant | Benzoyl peroxide | 0.03 mmol, 7.2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.33 mmol, 30.58 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 0.3 mmol, 0.1 g | FC1=CC=C(C=C1)N1C(N2C(CC1)=NC(=C2)COC2=CC=CC=C2)=O | C19H16FN3O2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3-bromo-6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 57 mg, 35% yield | BrC1=C(N=C2N1C(N(CC2)C2=CC=C(C=C2)F)=O)COC2=CC=CC=C2 | C19H15BrFN3O2
